### PR TITLE
feat(FG): prove `F_eq_FReal`, `G_eq_GReal`, `FmodG_eq_FmodGReal`, `FReal_Differentiable`, `GReal_Differentiable`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds proofs autoformalised by @Aristotle-Harmonic.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

**Comment by seewoo5** [comment]
Probably some of these are done in #239 @cameronfreer, but honestly I'm not sure now if we need these now. These were added while ago when I wrote `FG.lean` for the first time, but the PRs later somehow shows me that these might not be necessary. But I may keep this open until other PRs get merged (like #239 #248 #307 #331) and `FG.lean` is essentially done.

File: SpherePacking/ModularForms/FG.lean [hunk 1]
```diff
@@ -67,12 +67,22 @@ noncomputable def GReal (t : ℝ) : ℝ := (G.resToImagAxis t).re
...
 
-theorem G_eq_GReal {t : ℝ} (ht : 0 < t) : G.resToImagAxis t = GReal t := by sorry
+private lemma G_imag_axis_real' : ResToImagAxis.Real G :=
+  (H₂_imag_axis_real.pow 3).mul
+    (((H₂_imag_axis_real.pow 2).smul.add
+      (H₂_imag_axis_real.smul.mul H₄_imag_axis_real)).add
+      (H₄_imag_axis_real.pow 2).smul)
+
+theorem G_eq_GReal {t : ℝ} (_ht : 0 < t) : G.resToImagAxis t = GReal t :=
+  G_imag_axis_real'.eq_real_part t
```
Comment (seewoo5) [inline SpherePacking/ModularForms/FG.lean:81]: This might be better:
```lean
theorem F_imag_axis_of_real : ResToImagAxis.Real F := by unfold F; fun_prop

theorem G_imag_axis_of_real : ResToImagAxis.Real G := by unfold G; fun_prop

theorem F_eq_FReal {t : ℝ} : F.resToImagAxis t = FReal t :=
  F_imag_axis_of_real.eq_real_part t

theorem G_eq_GReal {t : ℝ} : G.resToImagAxis t = GReal t :=
  G_imag_axis_of_real.eq_real_part t
```

**Review by seewoo5 — CHANGES_REQUESTED** [review]
